US09447074B2
7-[2-({[4-(methyloxy)-2-pyridinyl]methyl}oxy)phenyl]-2,3,4,5-tetrahydro-1H-3-benzazepine
To a stirred solution of 1,1-dimethylethyl 7-[2-({[4-(methyloxy)-2-pyridinyl]methyl}oxy)phenyl]-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (3.0 g) in dioxane (30 ml) was added hydrogen chloride gas for 2 h at 10-20° C. This was concentrated in vacuo. The residue was dissolved in water, washed with ethyl acetate and basified by adding aqueous sodium bicarbonate. This was extracted with 10% methanol in DCM. The organics were dried over sodium sulphate and concentrated in vacuo to yield the title compound, 2.14 g (91%).

reactant | 1,1-dimethylethyl 7-[2-({[4-(methyloxy)-2-pyridinyl]methyl}oxy)phenyl]-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 3.0 g | COC1=CC(=NC=C1)COC1=C(C=CC=C1)C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C28H32N2O4
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 7-[2-({[4-(methyloxy)-2-pyridinyl]methyl}oxy)phenyl]-2,3,4,5-tetrahydro-1H-3-benzazepine | COC1=CC(=NC=C1)COC1=C(C=CC=C1)C1=CC2=C(CCNCC2)C=C1 | C23H24N2O2
